US03979385
81.4 parts of didecylformamide and 20.5 parts of phosphorous acid were slowly reacted with 34.3 parts of phosphorus trichloride at 70°C, and the mixture was maintained at 70°C for a further 3 hours. The product was hydrolyzed by the addition of 500 parts of water, the diphosphonic acid thereby being precipitated. This was dissolved in ethanol, precipitated with acetone and dried in vacuo at 50°C. N,N-didecylaminomethane-diphosphonic acid was obtained in a yield of 130% based on PCl3 or 65% based on total phosphorus.

reactant | didecylformamide | C(CCCCCCCCC)N(C=O)CCCCCCCCCC | C21H43NO
reactant | phosphorous acid | P(O)(O)O | H3O3P
reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
solvent | water | O | H2O
product | N,N-didecylaminomethane-diphosphonic acid | yield of 130% | C(CCCCCCCCC)N(CCCCCCCCCC)C(P(O)(=O)O)P(O)(=O)O | C21H47NO6P2
